US09334263B2
To a solution of tert-butyl 4-(5-(1-phenylcyclopropyl)pyrimidin-2-yl)piperazine-1-carboxylate (30 mg, 0.08 mmol) in dioxane (2 mL) was added 4 M HCl-dioxane (2 mL). The reaction mixture was stirred at room temperature overnight and then concentrated to afford crude 5-(1-phenylcyclopropyl)-2-(piperazin-1-yl)pyrimidin. MS (ES+) C17H20N4 requires: 280, found: 281 [M+H]+.

reactant | tert-butyl 4-(5-(1-phenylcyclopropyl)pyrimidin-2-yl)piperazine-1-carboxylate | 0.08 mmol, 30 mg | C1(=CC=CC=C1)C1(CC1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H28N4O2
reactant | HCl dioxane | 4 M, 2 mL | Cl.O1CCOCC1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(1-phenylcyclopropyl)-2-(piperazin-1-yl)pyrimidin | C1(=CC=CC=C1)C1(CC1)C=1C=NC(=NC1)N1CCNCC1 | C17H20N4
